US08486967B2
a) 3-(Benzotriazol-1-ylmethyl-benzyl-amino)-propionic acid ethyl ester
To a solution of 1H-benzo[d][1,2,3]triazole (5.46 g, 45.8 mmol) in MeOH (32 mL) at 0° C. were added ethyl 3-(benzylamino)propanoate (10 g, 45.8 mmol) and an aqueous solution of formaldehyde (36%, 4.56 mL, 59.6 mmol). The reaction mixture was warmed to room temperature and stirred for 12 hours. The solvent was evaporated and the residue was purified by flash-chromatography over 330 g flash pack using gradient EtOAc/Heptane 5-50% over 40 minutes. The title compound was obtained as colorless oil (12.62 g, 81%).

reactant | 1H-benzo[d][1,2,3]triazole | 45.8 mmol, 5.46 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | ethyl 3-(benzylamino)propanoate | 45.8 mmol, 10 g | C(C1=CC=CC=C1)NCCC(=O)OCC | C12H17NO2
reactant | formaldehyde | 59.6 mmol, 4.56 mL | C=O | CH2O
solvent | MeOH | 32 mL | CO | CH4O
product | 3-(Benzotriazol-1-ylmethyl-benzyl-amino)-propionic acid ethyl ester | C(C)OC(CCN(CC1=CC=CC=C1)CN1N=NC2=C1C=CC=C2)=O | C19H22N4O2
